US08017601B2
N-(6-(1H-indol-5-yl)naphthalen-2-yl)thiophene-3-carboxamide
5-bromo-1H-indole (31.4 mg, 0.160 mmol), N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)thiophene-3-carboxamide (114 mg, 0.301 mmol), Fibercat palladium catalyst (Johnson-Matthey, 31 mg), and K2CO3 (2 M in water, 0.45 ml, 0.90 mmol) were combined in a microwave reaction vessel and 1,4-dioxane (1.5 ml) was added. The reaction tube was sealed and heated in the microwave (CEM microwave) at 60 Watts and 80 C for 20 minutes. The reaction was cooled to room temperature, diluted with water (5 ml), and extracted with EtOAc (3×10 ml). The organic extracts were combined, dried over sodium sulfate, filtered, concentrated, and purified on silica gel (5:1->4:1->2:1 hexanes/EtOAc) to afford crude product. This crude material was then purified two times via HPLC (10%->95% MeCN/water with 0.1% TFA) afford title compound (12.2 mg, 21%). MS (ESI pos. ion) m/z: 369 (M+H). Calc'd Exact Mass for C23H16N2OS: 368.

reactant | 5-bromo-1H-indole | 0.160 mmol, 31.4 mg | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)thiophene-3-carboxamide | 0.301 mmol, 114 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)NC(=O)C1=CSC=C1)C | C21H22BNO3S
reactant | K2CO3 | 0.90 mmol, 2 M, 0.45 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
catalyst | palladium | 31 mg | [Pd] | Pd
solvent | water | 5 ml | O | H2O
product | N-(6-(1H-indol-5-yl)naphthalen-2-yl)thiophene-3-carboxamide | 12.2 mg, 21% | N1C=CC2=CC(=CC=C12)C=1C=C2C=CC(=CC2=CC1)NC(=O)C1=CSC=C1 | C23H16N2OS
